* LED Blink Circuit Design
* Designer: AI Assistant
* Date: 2025-06-17
* Project: Basic LED circuit for testing

* Circuit Components
VCC VCC 0 DC 5V
R1 VCC N1 330
D1 N1 0 LED
SW VCC N1 SW

* LED Model (Standard Red LED)
.MODEL LED D(Is=1e-14 Rs=1 N=1.8 Vj=0.7 Cjo=10p Tt=10n)

* Switch Model
.MODEL SW SW(Ron=0.01 Roff=1e6 Vt=2.5)

* Simulation Commands
.OP
.DC VCC 0 5 0.1
.TRAN 1ms 100ms

.END